US08710043B2
(S)-2-((6-(((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)-methyl)carbamoyl)pyridin-3-yl)oxy)acetic Acid
To a solution of the (S)-tert-butyl 2-((6-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)pyridin-3-yl)oxy)acetate from above in DCM (0.5 mL), was added TFA (0.550 mL, 7.40 mmol). The resulting mixture was then stirred at rt for 1 h. The mixture was then concentrated and MeOH (1 mL) was added. The mixture was purified by preparative HPLC (0%-100% MeCN 0.1% TFA/H2O 0.1% TFA) to give the title compound as a white solid. 1H NMR (400 MHz, MeOH) δ ppm 8.55 (d, J=4.7 Hz, 1H), 8.42 (d, J=2.5 Hz, 1H), 8.08 (d, J=8.8 Hz, 1H), 7.59-7.72 (m, 5H), 7.42-7.55 (m, 2H), 6.68 (d, J=1.6 Hz, 1H), 4.89 (s, 2H). MS (ESI pos. ion) m/z: 450.2 (M+H).

reactant | (S)-tert-butyl 2-((6-(((3-fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamoyl)pyridin-3-yl)oxy)acetate | FC=1C(=NC=CC1)[C@H](C1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C=N1)OCC(=O)OC(C)(C)C | C25H23F4N3O4
reactant | TFA | 7.40 mmol, 0.550 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-((6-(((3-Fluoropyridin-2-yl)(4-(trifluoromethyl)phenyl)-methyl)carbamoyl)pyridin-3-yl)oxy)acetic Acid | FC=1C(=NC=CC1)[C@H](C1=CC=C(C=C1)C(F)(F)F)NC(=O)C1=CC=C(C=N1)OCC(=O)O | C21H15F4N3O4
